US08664401B2
Step B) (2R)-4-[4-(2,3-dihydro-1,4-benzodioxin-6-yl)-2-oxopyridin-1(2H)-yl]-N-hydroxy-2-methyl-2-(methylsulfonyl)butanamide
(2R)-4-[4-(2,3-dihydro-1,4-benzodioxin-6-yl)-2-oxopyridin-1(2H)-yl]-2-methyl-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide (581 mg, 1 mmol) was dissolved in 3 mL of dichloromethane. To this solution was added 1 mL of 4M HCl in dioxane 1 mL of water. The reaction was monitored for completion by LCMS. After standing overnight, a solid precipitated. The solid was collected by filteration and dried in vacuo yielding 25 mg (68%) of light yellow solid. LCMS m/z 423.5 (M+1) 1H NMR (400 MHz, DMSO-d6) δ ppm 1.57 (s, 3H) 2.09-2.22 (m, 1H) 2.36-2.46 (m, 1H) 3.10 (s, 3H) 3.65-3.79 (m, 1H) 4.03-4.15 (m, 1H) 4.28 (s, 4H) 6.59-6.66 (m, 2H) 6.94 (d, J=8.20 Hz, 1H) 7.19-7.26 (m, 2H) 7.67-7.73 (m, 1H)

reactant | (2R)-4-[4-(2,3-dihydro-1,4-benzodioxin-6-yl)-2-oxopyridin-1(2H)-yl]-2-methyl-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide | 1 mmol, 581 mg | O1CCOC2=C1C=CC(=C2)C2=CC(N(C=C2)CC[C@](C(=O)NOC2OCCCC2)(S(=O)(=O)C)C)=O | C24H30N2O8S
reactant | HCl | 4M, 1 mL | Cl | ClH
reactant | water | O | H2O
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | (2R)-4-[4-(2,3-dihydro-1,4-benzodioxin-6-yl)-2-oxopyridin-1(2H)-yl]-N-hydroxy-2-methyl-2-(methylsulfonyl)butanamide | O1CCOC2=C1C=CC(=C2)C2=CC(N(C=C2)CC[C@](C(=O)NO)(S(=O)(=O)C)C)=O | C19H22N2O7S
